US08383088B2
7.5: Enzymatic Reaction to Form the Benzofuranone Derivative A-27
0.40 g of the compound (7.4) are dissolved together with 0.175 g of 4-hydroxy-methyl-pyranone (Fluka) in 40 mL of phosphate buffer (0.2M, pH=5) at room temperature, and 20.0 mg of laccase (Trametes versicolor (Fluka)) are added. For better solubility, 1 mL of ethanol is also added. The mixture is stirred in an open vessel until the starting materials can no longer be detected (about 2 days). The mixture is concentrated and the residue is taken up in methanol and centrifuged. The desired product (211 mg) is obtained in the form of a brownish-beige solid. The product can be purified further by reprecipitation from ether/methanol mixtures.

reactant | 4-hydroxy-methyl-pyranone | 0.175 g | OC1=C(C(OC=C1)=O)C | C6H6O3
reactant | ethanol | 1 mL | C(C)O | C2H6O
solvent | phosphate | 0.2M, 40 mL, pH=5 | P(=O)([O-])([O-])[O-]
product | Benzofuranone | 211 mg | O1C(CC2=C1C=CC=C2)=O | C8H6O2
